US04863480
Preparation of 2-hydroxy-4-ureidophenoxyethanol
0.03 mol (6.16 g) of 2-hydroxy-4-aminophenoxyethanol hydrochloride is dissolved in 34 ml of water at 15° C. 0.03 mol (2.43 g) of potassium isocyanate dissolved in 7.5 ml of water is added to this solution, with stirring. The temperature of the reaction medium rises to 25° C. After stirring for 30 minutes, the expected product which has precipitated is filtered off. It is washed with a normal solution of hydrochloric acid and then with water. After recrystallization from acetic acid and drying in vacuo, the product melts at 191° C.

reactant | 2-hydroxy-4-aminophenoxyethanol hydrochloride | 0.03 mol, 6.16 g | Cl.OC1=C(OC(C)O)C=CC(=C1)N
reactant | potassium isocyanate | 0.03 mol, 2.43 g | [N-]=C=O.[K+]
solvent | water | 34 ml | O | H2O
solvent | water | 7.5 ml | O | H2O
product | 2-hydroxy-4-ureidophenoxyethanol | OC1=C(OC(C)O)C=CC(=C1)NC(=O)N | C9H12N2O4
